US07825264B2
b) tert-Butyl [2-(4-fluorophenyl)-2-oxo-1-quinolin-8-ylethyl]carbamate
5.5 g (13 mmol) of tert-butyl [quinolin-8-yl(toluene-4-sulfonyl)methyl]carbamate, 336 mg (1.3 mmol) of 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide, 27 ml (200 mmol) of triethylamine and 3.9 g (13 mmol) of 4-fluorobenzaldehyde were mixed in 115 ml of methylene chloride at room temperature and then heated at 35° C. for 3 h. After reaction of the aldehyde was complete, 50 ml of saturated ammonium chloride solution were added, and the reaction mixture was stirred for 10 minutes. After removal of the aqueous phase, the organic phase was washed with 0.5 M sodium hydroxide solution and saturated sodium chloride solution. Drying of the organic phase over magnesium sulfate and concentration resulted in a semisolid residue which was stirred with 50 ml of diethyl ether. Filtration of the solid residue by suction resulted in 3.2 g of tert-butyl [2-(4-fluorophenyl)-2-oxo-1-quinolin-8-ylethyl]carbamate.

reactant | tert-butyl [quinolin-8-yl(toluene-4-sulfonyl)methyl]carbamate | 13 mmol, 5.5 g | N1=CC=CC2=CC=CC(=C12)C(S(=O)(=O)C1=CC=C(C=C1)C)NC(OC(C)(C)C)=O | C22H24N2O4S
reactant | triethylamine | 200 mmol, 27 ml | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzaldehyde | 13 mmol, 3.9 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | ammonium chloride | 50 ml | [Cl-].[NH4+]
catalyst | 3-ethyl-5-(2-hydroxyethyl)-4-methylthiazolium bromide | 1.3 mmol, 336 mg | [Br-].C(C)[N+]1=CSC(=C1C)CCO
solvent | methylene chloride | 115 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | tert-Butyl [2-(4-fluorophenyl)-2-oxo-1-quinolin-8-ylethyl]carbamate | FC1=CC=C(C=C1)C(C(C=1C=CC=C2C=CC=NC12)NC(OC(C)(C)C)=O)=O | C22H21FN2O3
